US08383820B2
3-(6-Bromo-pyridin-3-yloxy)-N-(5-hydroxy-adamantan-2-yl)-benzamide
Prepared from 3-(6-bromo-pyridin-3-yloxy)-benzoic acid and 4-amino-1-hydroxyadamantane. LC-MS (m/z): 444 (M+1).

reactant | 3-(6-bromo-pyridin-3-yloxy)-benzoic acid | BrC1=CC=C(C=N1)OC=1C=C(C(=O)O)C=CC1 | C12H8BrNO3
reactant | 4-amino-1-hydroxyadamantane | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
product | 3-(6-Bromo-pyridin-3-yloxy)-N-(5-hydroxy-adamantan-2-yl)-benzamide | BrC1=CC=C(C=N1)OC=1C=C(C(=O)NC2C3CC4CC(CC2C4)(C3)O)C=CC1 | C22H23BrN2O3
